US04892946
Methyl 2-[[(4-methoxymethyl-6-methylthio-1,3,5-triazin-2-yl)aminocarbonyl]aminosulfonyl]benzoate
To a solution of 0.8 g of 4-methoxymethyl-6-methylthio-2-amino-1,3,5-triazine in 15 ml of anhydrous methylene chloride was added 1.5 g of 2-methoxycarbonylbenzenesulfonylisocyanate. The mixture was heated for one hour and then stirred at ambient temperature for 18 hours. Solvent was removed in vacuo and the residue was triturated with 1-chlorobutane (50 ml) and filtered to give 1.7 g of the desired product, m.p. 147°-149° C. mmr: 2.6 ppm δ, 3H; 3.4 ppm δ, 3H; 3.85 ppm δ, 3H; 4.45 δ, 2H; 7.65-8.5 broad, 4H.

reactant | 4-methoxymethyl-6-methylthio-2-amino-1,3,5-triazine | 0.8 g | COCC1=NC(=NC(=N1)SC)N | C6H10N4OS
reactant | 2-methoxycarbonylbenzenesulfonylisocyanate | 1.5 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-[[(4-methoxymethyl-6-methylthio-1,3,5-triazin-2-yl)aminocarbonyl]aminosulfonyl]benzoate | 1.7 g | COCC1=NC(=NC(=N1)SC)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C15H17N5O6S2
